US08227478B2
To a solution of 4-bromo-1-(2-methylsulfanyl-pyrimidin-4-yl)-1H-indole (5.0 g) in DCM (200 mL) at 0° C. was added MCPBA (4.01 g) in portions, and the mixture stirred at 0° C. for 1 h. The reaction mixture was quenched in 10% Na2SO3 (aq), partitioned between DCM and NaHCO3 (aq), the organic layer washed with NaHCO3 (aq), and dried over Na2SO4. The solvent was stripped to provide a light yellow solid, which was then treated with hot EtOAc/hexane (50:50), filtered, dried to provide 4-bromo-1-(2-methylsulfinyl-pyrimidin-4-yl)-1H-indole (4.98 g) as an off-white powder.

reactant | 4-bromo-1-(2-methylsulfanyl-pyrimidin-4-yl)-1H-indole | 5.0 g | BrC1=C2C=CN(C2=CC=C1)C1=NC(=NC=C1)SC | C13H10BrN3S
reactant | MCPBA | 4.01 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 4-bromo-1-(2-methylsulfinyl-pyrimidin-4-yl)-1H-indole | 4.98 g | BrC1=C2C=CN(C2=CC=C1)C1=NC(=NC=C1)S(=O)C | C13H10BrN3OS
